US04591584
4,5'-azo-bis-salicylic acid
1 g of disodium-4,5'-azo-bis-salicylate was dissolved in 20 ml of boiling water, whereupon the solution was acidified with acetic acid down to pH 4. After cooling, the product was filtered off, washed with water and dried. Yield: 0.8 g.

reactant | disodium 4,5'-azo-bis-salicylate | 1 g | [Na][Na].N(=NC1=CC=C(C(C(=O)[O-])=C1)O)C=1C=C(C(C(=O)[O-])=CC1)O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | 4,5'-azo-bis-salicylic acid | N(=NC1=CC=C(C(C(=O)O)=C1)O)C=1C=C(C(C(=O)O)=CC1)O | C14H10N2O6
